US08980926B2
2-amino-3-{4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}-5-[2-(trimethylsilyl)ethynyl]indol-3-ol (19)
2,2-dichloro-N-[2-({4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]phenyl]acetamide (57 mg, 0.11 mmol, 1 eq.) was dissolved in EtOH (3 mL). Potassium cyanide (9.4 mg, 0.14 mmol, 1.3 eq.) in water (1 mL) was added to the reaction, and the reaction was stirred at room temperature for 16 hours. The EtOH was evaporated, and additional water (8 mL) was added. The reaction was then extracted three times with 5% isopropanol in DCM (20 mL each), and the organic layer was dried over sodium sulfate. The solvent was evaporated, and the residue was purified on silica column (DCM/MeOH, 39:1→19:1→9:1→4:1) to result in 39.2 mg (82%) of the title compound as a yellow solid. 1H NMR (500 MHz, CD3OD) δ 7.44 (d, J=8.5, 2H, Ar—H), 7.29 (dd, J=1.8, 8.8, 1H, Ar—H), 7.22 (d, J=8.3, 2H, Ar—H), 7.02-6.94 (m, 2H, Ar—H), 0.18 (s, 9H, SiC3H9). 13C NMR (126 MHz, CD3OD) δ 180.56 (C—NH2), 156.85 (C—Ar), 144.59 (C—Ar), 140.89 (C—Ar), 135.13 (C—Ar), 129.58 (C—Ar), 127.89 (d, J=0.88, C—Ar), 127.66 (C—Ar), 126.99 (C—Ar), 123.70 (q, J=273.80, CF3), 117.82 (C—Ar), 116.69 (C—Ar), 107.08 (CSi(CH3)3), 92.94 (CCSi(CH3)3), 84.20 (Ar—COH), 29.55 (q, J=40.25, CN2), 0.23 (Si(CH3)3). Exact Mass, 428.13.

reactant | 2,2-dichloro-N-[2-({4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]phenyl]acetamide | 0.11 mmol, 57 mg, 1 eq. | ClC(C(=O)NC1=C(C=C(C=C1)C#C[Si](C)(C)C)C(=O)C1=CC=C(C=C1)C1(N=N1)C(F)(F)F)Cl | C22H18Cl2F3N3O2Si
reactant | Potassium cyanide | 0.14 mmol, 9.4 mg, 1.3 eq. | [C-]#N.[K+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | water | 1 mL | O | H2O
product | 2-amino-3-{4-[3-(trifluoromethyl)diazirin-3-yl]phenyl}-5-[2-(trimethylsilyl)ethynyl]indol-3-ol | 39.2 mg, 82% | NC1=NC2=CC=C(C=C2C1(O)C1=CC=C(C=C1)C1(N=N1)C(F)(F)F)C#C[Si](C)(C)C | C21H19F3N4OSi
